US03957766
6.8 g. crude 2-hydrazino-4-amino-5-methyl-pyrimidine (m.p. 174° - 175°C.), which was prepared by treating 8 g. 2-chloro-4-methyl-pyrimidine with 40 ml. hydrazine hydrate for 1.5 hours at 100°C., were dissolved in a mixture of 79'ml. water and 37 ml. 2N hydrochloric acid, a solution of 8.3 g. 5-nitro-furan-2-aldehyde in 116 ml. methanol then added thereto, the reaction mixture left to stand for 1 hour at ambient temperature and the precipitated crystals filtered off with suction, washed with 50% aqueous methanol and then with ether, there thus being obtained 12.7 g. of the crude hydrazone, which had a melting point of 264° - 268°C.

reactant | 2-chloro-4-methyl-pyrimidine | ClC1=NC=CC(=N1)C | C5H5ClN2
reactant | hydrazine hydrate | O.NN
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | 5-nitro-furan-2-aldehyde | [N+](=O)([O-])C1=CC=C(O1)C=O | C5H3NO4
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 2-hydrazino-4-amino-5-methyl-pyrimidine | N(N)C1=NC=C(C(=N1)N)C | C5H9N5
